US07521447B2
Step C: 4-{2-[5-(2-Cyano-4-fluorophenoxy)-indazol-1-yl]-ethyl}-piperazine-1-carboxylic acid tert-butyl ester:
To a solution of 5-fluoro-2-[1-(2-oxo-ethyl)-1H-indazol-5-yloxy]-benzonitrile (0.307 g, 1.04 mmol) and triacetoxyborohydride (0.66 g, 3.1 mmol) in dichloroethane (10 mL) was added piperazine-1-carboxylic acid tert-butyl ester (0.65 g, 3.49 mmol). The mixture was stirred at room temperature for 2 hours. The reaction mixture was quenched with MeOH (2 mL) and diluted with ethyl acetate (100 mL). The solution was washed with aqueous NaHCO3, brine, dried over MgSO4, and concentrated under reduced pressure. The residue was chromatographed eluting with ethyl acetate/hexanes (2:3, with 1% triethylamine) to afford 0.29 g of product (60% yield).

reactant | 5-fluoro-2-[1-(2-oxo-ethyl)-1H-indazol-5-yloxy]-benzonitrile | 1.04 mmol, 0.307 g | FC=1C=CC(=C(C#N)C1)OC=1C=C2C=NN(C2=CC1)CC=O | C16H10FN3O2
reactant | triacetoxyborohydride | 3.1 mmol, 0.66 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | piperazine-1-carboxylic acid tert-butyl ester | 3.49 mmol, 0.65 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 4-{2-[5-(2-Cyano-4-fluorophenoxy)-indazol-1-yl]-ethyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.29 g, 60% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN1N=CC2=CC(=CC=C12)OC1=C(C=C(C=C1)F)C#N | C25H28FN5O3
